US07723331B2
c) 6-(4-Chlorophenyl)-3-{3-[(1,4-dimethylpiperazin-2-yl)methoxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one
The title compound was synthesized according to Example 13c from methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate (0.427 g, 1.32 mmol) and 1-{3-[(1,4-dimethylpiperazin-2-yl)methoxy]phenyl}methanamine (0.300 g, 1.20 mmol) in MeOH (2 mL), the crude product was purified by flash chromatography using EtOAc:MeOH:TEA (100:10:1) to give the title compound. Yield: 0.315 g (48%). 1H NMR (400 MHz, CDCl3) δ 8.07 (s, 1H), 7.58-7.62 (m, 2H), 7.38-7.42 (m, 2H), 7.45 (s, 1H), 7.22-7.27 (m, 1H), 6.82-6.93 (m, 3H), 5.16 (s, 2H), 3.91-4.01 (m, 2H), 2.76-2.87 (m, 2H), 2.66-2.73 (m, 1H), 2.47-2.55 (m, 1H), 2.36-2.44 (m, 1H), 2.34 (s, 3H), 2.27 (s, 3H), 2.09-2.27 (m, 2H). MS (ESI+) 495.01 (M+1H+)

reactant | methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate | 1.32 mmol, 0.427 g | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)OC)/N=C/N(C)C | C15H15ClN2O2S
reactant | 1-{3-[(1,4-dimethylpiperazin-2-yl)methoxy]phenyl}methanamine | 1.20 mmol, 0.300 g | CN1C(CN(CC1)C)COC=1C=C(C=CC1)CN | C14H23N3O
solvent | MeOH | 2 mL | CO | CH4O
product | 6-(4-Chlorophenyl)-3-{3-[(1,4-dimethylpiperazin-2-yl)methoxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC(=CC=C1)OCC1N(CCN(C1)C)C | C26H27ClN4O2S
